US08455638B2
Step A. Methyl 4-[4-(trifluoromethyl)phenoxy]benzoate
A flask was charged with methyl 4-hydroxybenzoate (500 mg, 3.29 mmol), copper (II) acetate (895 mg, 4.93 mmol), 4-trifluoromethylphenylboronic acid (2.50 g, 13.15 mmol), and 4 angstrom molecular sieves (500 mg). Dichloromethane (33 mL) and triethylamine (1.83 mL, 13.15 mmol) were added, and the reaction mixture was stirred rapidly, open to air. After 48 h, the reaction mixture was filtered and concentrated in vacuo. Purification by flash chromatography on silica gel (0 to 10% EtOAc in hexanes, then 10 to 100% EtOAc in hexanes) provided the title compound: LCMS m/z 297.5 [M+H]+; 1H NMR (500 MHz, CDCl3) δ 8.07-8.05 (m, 2H), 7.63 (d, J=8.5 Hz, 2H), 7.12 (d, J=8.5 Hz, 2H), 7.06-7.04 (m, 2H), 3.92 (s, 3H).

reactant | methyl 4-hydroxybenzoate | 3.29 mmol, 500 mg | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | 4-trifluoromethylphenylboronic acid | 13.15 mmol, 2.50 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | triethylamine | 13.15 mmol, 1.83 mL | C(C)N(CC)CC | C6H15N
catalyst | copper (II) acetate | 4.93 mmol, 895 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | Dichloromethane | 33 mL | ClCCl | CH2Cl2
product | Methyl 4-[4-(trifluoromethyl)phenoxy]benzoate | FC(C1=CC=C(OC2=CC=C(C(=O)OC)C=C2)C=C1)(F)F | C15H11F3O3
